US07323455B2
(2-Amino-5-bromophenyl)(dithien-2-yl)methanol
Prepared from methyl 2-amino-5-bromobenzoate and 2-thienyllithium using the procedure similar to example 6. 1H-NMR (CDCl3) δ 7.35 (dd, J=5.3, 1.1 Hz, 2H), 7.26 (dd, J=8.4,2.3 Hz, 1H), 6.98 (m, 2H), 6.82 (d, J=2.3 Hz, 1H), 6.79 (m, 2H), 6.62 (d, J=8.4 Hz, 1H), 5.45 (br s, 1H), 3.86 (br s, 2H); Anal. Calc. For C15H12BrNOS2: C, 49.18; H, 3.30; N, 3.82. Found: C, 49.62; H, 3.47; N, 3.60.

reactant | methyl 2-amino-5-bromobenzoate | NC1=C(C(=O)OC)C=C(C=C1)Br | C8H8BrNO2
reactant | 2-thienyllithium | S1C(=CC=C1)[Li]
product | (2-Amino-5-bromophenyl)(dithien-2-yl)methanol | NC1=C(C=C(C=C1)Br)C(O)(C=1SC=CC1)C=1SC=CC1 | C15H12BrNOS2
